US04178449
7-(α,α,α-Trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile
A solution of 0.54 g. of 3-aminopyrazole-4-carbonitrile and 1.29 g. of 3-hydroxy-3'-(trifluoromethyl)acrylophenone acetate in 25 ml. of absolute ethanol is refluxed for 15 hours. The mixture is cooled and filtered giving a solid which is dissolved in methylene chloride and treated as described in Example 1, giving the desired product, m.p. 141°-142.5° C.

reactant | 3-aminopyrazole-4-carbonitrile | NC1=NNC=C1C#N | C4H4N4
reactant | 3-hydroxy-3'-(trifluoromethyl)acrylophenone acetate | C(C)(=O)O.OC=CC(=O)C1=CC(=CC=C1)C(F)(F)F
reactant | ethanol | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-(α,α,α-Trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | FC(C1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C#N)(F)F | C14H7F3N4
